US04468394
6,7-Diacetoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (70 mg) was heated under reflux for 2 hours in thionyl chloride (2 mL), and then the solvent was evaporated. To the residue was added benzene (30 mL). Benzene was evaporated and the residue was vacuum dried to give 6,7-diacetoxy-1,4-dihydro-4-oxoquinoline-3-carbonyl chloride.

reactant | 6,7-Diacetoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 70 mg | C(C)(=O)OC=1C=C2C(C(=CNC2=CC1OC(C)=O)C(=O)O)=O | C14H11NO7
reactant | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
product | 6,7-diacetoxy-1,4-dihydro-4-oxoquinoline-3-carbonyl chloride | C(C)(=O)OC=1C=C2C(C(=CNC2=CC1OC(C)=O)C(=O)Cl)=O | C14H10ClNO6
